US05426119
Methyl 5-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoate
2.0 g of 5-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid are dissolved in 30 ml of methanol and mixed with 3 ml of thionyl chloride at 0° C. The solution is stirred overnight, then rotary evaporated and the residue is chromatographed over a silica gel column.

reactant | 5-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid | 2.0 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCC(=O)O)C=1C=NC=CC1 | C24H25ClN2O4S
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 30 ml | CO | CH4O
product | Methyl 5-(4-(2-(4-chlorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCC(=O)OC)C=1C=NC=CC1 | C25H27ClN2O4S
